US05478850
5-(4-[2-(5-Phenyl-2,4-thiazolidinedion-3-yl)ethoxy]benzylidene)-2,4-thiazolidinedione
A mixture of 4-[2-(5-phenyl-2,4-thiazolidinedion-3-yl) ethoxy]-benzaldehyde) (1.5 g) 2,4-thiazolidinedione (0.54 g), piperidine (0.4 ml) and benzoic acid (0.2 g) was heated at reflux in toluene (100 ml) in a Dean and Stark apparatus. After 4 hours at reflux the mixture was allowed to cool to room temperature overnight and then evaporated to dryness. The residue was then triturated with diisopropyl ether for 24 hours. The resulting solid was filtered off, washed with ether and dried in vacuo to afford the title compound which softened at 80° C. and melted at 120° C.

reactant | 4-[2-(5-phenyl-2,4-thiazolidinedion-3-yl) ethoxy]-benzaldehyde | C1(=CC=CC=C1)C1C(N(C(S1)=O)CCOC1=CC=C(C=O)C=C1)=O | C18H15NO4S
reactant | 2,4-thiazolidinedione | 1.5 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.4 ml | N1CCCCC1 | C5H11N
reactant | benzoic acid | 0.2 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-[2-(5-Phenyl-2,4-thiazolidinedion-3-yl)ethoxy]benzylidene)-2,4-thiazolidinedione | C1(=CC=CC=C1)C1C(N(C(S1)=O)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1)=O | C21H16N2O5S2
